US06251917B1
a) Ethyl 2-(E-2-(3,4-Dimethoxyphenyl)-ethen-1-yl)benzoate
5 g (30.5 mmol) of 3,4-dimethoxystyrene were reacted with ethyl 2-bromobenzoate in dimethylformamide at 120° C. by the method of procedure 31a. 1.2 g (4%) [sic] of the product were obtained.

reactant | 3,4-dimethoxystyrene | 30.5 mmol, 5 g | COC=1C=C(C=C)C=CC1OC | C10H12O2
reactant | ethyl 2-bromobenzoate | BrC1=C(C(=O)OCC)C=CC=C1 | C9H9BrO2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Ethyl 2-(E-2-(3,4-Dimethoxyphenyl)-ethen-1-yl)benzoate | COC=1C=C(C=CC1OC)/C=C/C1=C(C(=O)OCC)C=CC=C1 | C19H20O4
